US04666920
3.1 g of 1,1-dimethylhydrazine are added dropwise to a solution of 16 g of ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-ethoxy-acrylate in 60 ml of ethanol, while cooling with ice and stirring. The mixture is stirred at room temperature for 1 hour, 60 ml of H2O are added, the mixture is cooled with ice and precipitate is filtered off with suction and washed with water/ethanol (1:1). 12.9 g of ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-(2,2-dimethylhydrazino)-acrylate of melting point 81° C. are obtained.

reactant | 1,1-dimethylhydrazine | 3.1 g | CN(N)C | C2H8N2
reactant | ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-ethoxy-acrylate | 16 g | FC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C(=C1F)F)F | C14H12F4O4
reactant | H2O | 60 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-(2,2-dimethylhydrazino)-acrylate | 12.9 g | FC1=C(C(=O)C(C(=O)OCC)=CNN(C)C)C=C(C(=C1F)F)F | C14H14F4N2O3
